US07108895B2
A reaction was carried out in the same manner as in first step of Example 4-1 except that 31.0 g (126 mmol) of (S)-1-(3,5-difluorophenyl)-2-phenylpropane-1-one [H-Ph-CH(CH3)—CO-PhFF-H] prepared in first step was employed instead of (S)-1-(4-chlorophenyl)-2-phenylpropane-1-one [H-Ph-CH(CH3)—CO-Ph-Cl] in second step of Example 4-1 to obtain 25.4 g (110 mmol) of (R)-1-(3,5-difluorophenyl)-2-phenylpropane [H-Ph-CH(CH3)—CH2-PhFF-H] (yield: 87%)

reactant | (S)-1-(3,5-difluorophenyl)-2-phenylpropane-1-one | 126 mmol, 31.0 g | FC=1C=C(C=C(C1)F)C([C@@H](C)C1=CC=CC=C1)=O | C15H12F2O
reactant | (S)-1-(4-chlorophenyl)-2-phenylpropane-1-one | ClC1=CC=C(C=C1)C([C@@H](C)C1=CC=CC=C1)=O | C15H13ClO
product | (R)-1-(3,5-difluorophenyl)-2-phenylpropane | 110 mmol, 25.4 g, yield: 87% | FC=1C=C(C=C(C1)F)C[C@@H](C)C1=CC=CC=C1 | C15H14F2
